US04843072
2-Cyano-5-chlorophenol (3.0 g), epichlorohydrin (6.0 g) and anhydrous potassium carbonate (4.2 g) were heated with stirring in ethanol for 2 hours. The organic layer was concentrated under reduced pressure. The residue was purified by silica gel chromatography to give 3.1 g of 1-(2-cyano-5-chlorophenoxy)-2,3-epoxypropane.

reactant | 2-Cyano-5-chlorophenol | 3.0 g | C(#N)C1=C(C=C(C=C1)Cl)O | C7H4ClNO
reactant | epichlorohydrin | 6.0 g | C(Cl)C1CO1 | C3H5ClO
reactant | potassium carbonate | 4.2 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | C(C)O | C2H6O
product | 1-(2-cyano-5-chlorophenoxy)-2,3-epoxypropane | 3.1 g | C(#N)C1=C(OCC2CO2)C=C(C=C1)Cl | C10H8ClNO2
